US06544985B2
3-(5-methyl-oxazol-4-yl)-benzoic acid methyl ester (0.87 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-[3-(5-methyl-oxazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (1.46 g) as a pale-yellow oil.

reactant | 3-(5-methyl-oxazol-4-yl)-benzoic acid methyl ester | 0.87 g | COC(C1=CC(=CC=C1)C=1N=COC1C)=O | C12H11NO3
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(5-methyl-oxazol-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.46 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N=COC1C)=O | C17H19NO4
